US08609208B2
In a reactor under an N2-atmosphere, 22.7 g (933 mmol) of magnesium flakes were added and stirred at room temperature for 3 days. Then, 80 ml of THF and an iodine flake were added, a 100 ml THF solution of 150 g (777 mmol) of 1-bromo-3,5-difluorobenzene was slowly added at room temperature, and then the mixture was refluxed for 1 hour. Next, the mixture was cooled to 10° C., slowly added with 75 g (1710 mmol) of dry ice and stirred at room temperature for 1 hour. The reaction solution was poured in 500 ml of 1N HCl(aq) and then subjected to extraction with ethyl acetate. The organic layer was collected, washed with water, dried over anhydrous magnesium sulfate, filtered to remove insoluble substance, and concentrated under a reduced pressure. The residue was washed using n-heptane to obtain 66.3 g of 3,5-difluorobenzoic acid as a white solid.

reactant | magnesium | 933 mmol, 22.7 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-3,5-difluorobenzene | 777 mmol, 150 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | dry ice | 1710 mmol, 75 g | C(=O)=O | CO2
solvent | HCl | 1N, 500 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3,5-difluorobenzoic acid | 66.3 g | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
